US04632934
To a suspension of 5.21 g of 50% sodium hydride in 100 ml of dry dimethylformamide was added slowly 7.39 g of imidazole at room temperature, and the mixture was stirred for 20 minutes. A solution of 20 g of p-methoxybenzyl chloride in 30 ml of dry dimethylformamide was added to the mixture at room temperature over a period of 1 hour, and then the reaction mixture was stirred for 18 hours at 50° C. After removal of the solvent under reduced pressure, 100 ml of dichloromethane was added to the residual oil and the mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residual solid was recrystallized from diethyl ether-ligroin to give 14.7 g of p-(1-imidazolylmethyl)anisole as colorless platelets. Then a solution of 14.7 g of p-(1-imidazolylmethyl)anisole in 50 ml of 47% hydrobromic acid was refluxed for 3 hours. After concentration under reduced pressure, the residual solid was recrystallized from ethanol-diethyl ether to give 18.4 g of p-(1-imidazolylmethyl)phenol hydrobromide as colorless platelets. M.P.: 189°-190° C.

reactant | p-(1-imidazolylmethyl)anisole | 14.7 g | N1C(=NC=C1)CC1=CC=C(C=C1)OC | C11H12N2O
reactant | hydrobromic acid | 50 ml | Br | BrH
product | p-(1-imidazolylmethyl)phenol hydrobromide | 18.4 g | Br.N1C(=NC=C1)CC1=CC=C(C=C1)O | InChI=1S/C10H10N2O.BrH/c13-9-3-1-8(2-4-9)7-10-11-5-6-12-10;/h1-6,13H,7H2,(H,11,12);1H
